US04017621
To a solution of 5-(2-morpholinylmethyl)-5H-dibenz[b,f]azepine (0.23 g) in tetrahydrofuran was added sodium amide (0.063 g). The resulting mixture was stirred at 40° C for 30 minutes. To the reaction mixture was added trifluoroethyl trichloromethylsulfonate (0.265 g) in tetrahydrofuran at room temperature. The resulting mixture was stirred at 50° C for 5 hours. After cooling, the reaction mixture was admixed with water and extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over anhydrous sodium sulfate and evaporated to afford 5-(4-trifluoroethyl-2-morpholinylmethyl)-5H-dibenz[b,f]azepine. M.P. 97°-98° C.

reactant | 5-(2-morpholinylmethyl)-5H-dibenz[b,f]azepine | 0.23 g | N1CC(OCC1)CN1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C19H20N2O
reactant | sodium amide | 0.063 g | [NH2-].[Na+]
reactant | trifluoroethyl trichloromethylsulfonate | 0.265 g | ClC(Cl)(Cl)S(=O)(=O)OCC(F)(F)F | C3H2Cl3F3O3S
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(4-trifluoroethyl-2-morpholinylmethyl)-5H-dibenz[b,f]azepine | FC(CN1CC(OCC1)CN1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)(F)F | C21H21F3N2O
